US04877441
To a mixture of 9.5 g of metallic magnesium and 60 ml of diethyl ether was slowly added with stirring a solution of 56 g of methyl iodide in 120 ml of diethyl ether. The mixed solution was heated for 15 minutes under refluxing and cooled. The solution of methylmagnesium iodide thus prepared above in ether was slowly added with stirring at inner temperature of below 10° C. to a solution of 7.5 g of 4-acetaminophthalide in 120 ml of tetrahydrofuran, followed by stirring at room temperature overnight. After the reaction was over, the reaction mixture was poured into aqueous ammonium chloride solution (saturated) under ice cooling and extracted twice with 400 ml of ethyl acetate. The combined extracts were dried and concentrated to obtain an oily substance. The oily substance was purified by silica gel column chromatography to obtain 7.2 g of α,α-dimethyl-2-hydroxymethyl-3-acetaminobenzyl alcohol in the white crystal form. m.p. 137.9° C.

reactant | magnesium | 9.5 g | [Mg] | Mg
reactant | methyl iodide | 56 g | CI | CH3I
reactant | methylmagnesium iodide | C[Mg]I
reactant | 4-acetaminophthalide | 7.5 g | N(C(=O)C)C1=C2COC(=O)C2=CC=C1 | C10H9NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 120 ml | C(C)OCC | C4H10O
reactant | ether | CCOCC | C4H10O
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | α,α-dimethyl-2-hydroxymethyl-3-acetaminobenzyl alcohol | 7.2 g | CC(C1=C(C(=CC=C1)NC(=O)C)CO)(C)O | C12H17NO3
